US05206257
A mixture of 4-bromo-2-(2,6-dichloro-4-trifluoromethylphenyl)-imidazole (0.9 g, 0.025 mol), nitric acid (70% w /w, 1 ml) and sulphuric acid (98% w /w, 1 ml) was stirred and heated at 70° C. for 7.5 hours. After cooling it was added to a mixture of ice and water (50 ml). The precipitated solid was filtered off and purified by mplc on silica eluted with a mixture of ethyl acetate and petroleum spirit (b.p. 60°-80° C.) (1:5) to give 4-bromo-2-(2,6-dichloro-4-trifluoromethylphenyl)-5-nitro-imidazole (0.2 g), m.p. 292°-293° C., as an off-white solid.

reactant | 4-bromo-2-(2,6-dichloro-4-trifluoromethylphenyl)-imidazole | 0.025 mol, 0.9 g | BrC=1N=C(NC1)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C10H4BrCl2F3N2
reactant | nitric acid | 1 ml | [N+](=O)(O)[O-] | HNO3
reactant | sulphuric acid | 1 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 50 ml | O | H2O
product | 4-bromo-2-(2,6-dichloro-4-trifluoromethylphenyl)-5-nitro-imidazole | 0.2 g | BrC=1N=C(NC1[N+](=O)[O-])C1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C10H3BrCl2F3N3O2
